US04138397
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(acetyloxy)benzyl ester
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, sodium salt (5 mmole) in 50 ml of dimethylformamide is stirred at room temperature while 2 equivalents of p-(acetyloxy)benzyl alcohol is added. The mixture is cooled to 0° C. after which 5.5 mmole of dicyclohexylcarbodiimide in 10 ml of dimethylformamide is added. This mixture is stirred at 0° C. for 1 hour and at room temperature for 4 hours. Dicyclohexylurea is removed by filtration. The filtrate is diluted with chloroform, washed with water, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | sodium | 5 mmole | [Na] | Na
reactant | p-(acetyloxy)benzyl alcohol | 2 equivalents | C(C)(=O)OC1=CC=C(CO)C=C1 | C9H10O3
reactant | dicyclohexylcarbodiimide | 5.5 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(acetyloxy)benzyl ester | NC1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC(C)=O)(C)C | C17H20N2O5S
